US07393569B2
Sodium hydroxide (98 g) was added to a solution of dimethyl formamide (2,800 mL) of ethyl 3-(4-hydroxyphenyl)propionate (400 g) and stirred at 40° C. for 30 minutes. Formation of a salt could be observed visually. 6-acetoxycyclohexane (515 g) was added and stirred at 80° C. for 7 hours. The reaction mixture was poured into water (2,000 mL) and, toluene was further added and stirred. After separation, the toluene layer was washed with 6N hydrochloric acid, an aqueous saturated solution of sodium carbonate and water successively and then dried over anhydrous magnesium sulfate. The solvent was distilled off from the toluene layer to obtain 709 g of concentrates. Sodium hydroxide (185 g) was dissolved in water (400 mL) to which ethanol (600 mL) and 709 g of the concentrates were added and heated and refluxed for 2 hours. The reaction mixture was concentrated under a reduced pressure by using an evaporator and the resultant concentrates were poured into 6N hydrochloric acid. The obtained slurry was filtered to obtain solids. They were recrystallized from ethanol to obtain (4-(6-hydroxyhexyloxy)phenyl)propionic acid (281 g). Melting point: 109° C. to 112° C.

reactant | Sodium hydroxide | 98 g | [OH-].[Na+]
reactant | dimethyl formamide | 2,800 mL | CN(C=O)C | C3H7NO
reactant | ethyl 3-(4-hydroxyphenyl)propionate | 400 g | OC1=CC=C(C=C1)CCC(=O)OCC | C11H14O3
reactant | 6-acetoxycyclohexane | 515 g | C(C)(=O)OC1CCCCC1 | C8H14O2
reactant | Sodium hydroxide | 185 g | [OH-].[Na+]
solvent | water | 400 mL | O | H2O
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | water | 2,000 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (4-(6-hydroxyhexyloxy)phenyl)propionic acid | 281 g | OCCCCCCOC1=CC=C(C=C1)C(C(=O)O)C | C15H22O4
